US07078428B2
3-Hydroxy-2-isobutyl-2,3-dihydroisoindol-1-one is prepared as described in Example 1, starting with 6.5 g of N-isobutylphthalimide in 60 cm3 of methanol and 1.7 g of potassium borohydride. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours and is then cooled to a temperature in the region of 0° C., followed by dropwise addition of 50 cm3 of distilled water. The methanol is then partially evaporated off under reduced pressure (2 kPa) at a temperature in the region of 35° C., and the residue is extracted three times with 60 cm3 of dichloromethane. The organic extracts are combined, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 25° C. to give a pale yellow oil, which is purified by chromatography under argon pressure (60 kPa) on a column of silica gel (particle size 40-63 μm), eluting with a cyclohexane/ethyl acetate mixture (60/40 by volume). The fractions comprising the expected product are combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 5.8 g of 3-hydroxy-2-isobutyl-2,3-dihydroisoindol-1-one are thus obtained in the form of a white solid melting at 82° C.

reactant | N-isobutylphthalimide | 6.5 g | C(C(C)C)N1C(C=2C(C1=O)=CC=CC2)=O | C12H13NO2
reactant | water | 50 cm3 | O | H2O
solvent | methanol | 60 cm3 | CO | CH4O
solvent | potassium borohydride | 1.7 g | [BH4-].[K+]
product | 3-hydroxy-2-isobutyl-2,3-dihydroisoindol-1-one | 5.8 g | OC1N(C(C2=CC=CC=C12)=O)CC(C)C | C12H15NO2
